US04262004
To a stirred solution of 0.5 parts of 2,3-dihydro-N-(1-methylethyl)imidazo[2,1-b]benzothiazol-8-amine in 16 parts of methanol is added a solution of 0.184 parts of copper dichloride dihydrate in 4 parts of methanol. The precipitated product is filtered off, boiled in 40 parts of methanol, filtered off again and dried in vacuo at room temperature. The product is further dried for 2 hours in vacuo at 120° C., yielding 0.47 parts of bis[2,3-dihydro-N-(1-methylethyl)imidazo[2,1-b]benzothiazol-8-amine] copper (2+) dichloride; mp. 207.9° C.

reactant | 2,3-dihydro-N-(1-methylethyl)imidazo[2,1-b]benzothiazol-8-amine | CC(C)NC1=CC=CC=2N3C(SC21)=NCC3 | C12H15N3S
reactant | copper dichloride dihydrate | O.O.[Cu](Cl)Cl
solvent | methanol | CO | CH4O
product | bis[2,3-dihydro-N-(1-methylethyl)imidazo[2,1-b]benzothiazol-8-amine] copper (2+) dichloride | [Cu](Cl)Cl.CC(C)NC1=CC=CC=2N3C(SC21)=NCC3.CC(C)NC3=CC=CC=2N1C(SC23)=NCC1 | InChI=1S/2C12H15N3S.2ClH.Cu/c2*1-8(2)14-9-4-3-5-10-11(9)16-12-13-6-7-15(10)12;;;/h2*3-5,8,14H,6-7H2,1-2H3;2*1H;/q;;;;+2/p-2
